US04845239
20 g (0.030 mol) of sodium heptadecafluorodecyl 2-hydroxy-3-chloropropyl phosphate was charged into a reactor, to which 500 ml of ethanol was added, followed by agitation and heating to 70° C. to obtain a uniform mixture. Thereafter, the reaction system was cooled down to 30° C., to which was gradually added 16.9 g (0.030 mol) of a 0.0018 mol/g sodium hydroxide ethanol solution, followed by agitation for 4 hours while keeping the temperature. The HPLC analysis revealed the disappearance of a peak of the starting material with a peak for the resultant new product appearing. The resultant NaCl precipitate was removed by filtration and the ethanol was distilled off under reduced pressure to obtain 18.7 g (yield: 99%) of sodium heptadecafluorodecyl glycidyl phosphate.

reactant | sodium heptadecafluorodecyl 2-hydroxy-3-chloropropyl phosphate | 0.030 mol, 20 g | P(=O)(OC(C(C(C(C(C(C(CCC(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(OCC(CCl)O)[O-].[Na+]
reactant | sodium hydroxide ethanol | C(C)O.[OH-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | sodium heptadecafluorodecyl glycidyl phosphate | 18.7 g, yield: 99% | P(=O)(OC(C(C(C(C(C(C(CCC(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(OCC1CO1)[O-].[Na+] | InChI=1S/C13H10F17O5P.Na/c14-6(15,1-2-7(16,17)18)8(19,20)9(21,22)10(23,24)11(25,26)12(27,28)13(29,30)35-36(31,32)34-4-5-3-33-5;/h5H,1-4H2,(H,31,32);/q;+1/p-1
